US04948809
4-Chlorobenzenesulphonic acid-4-(2-hydroxyethyl)-N-octanoylphenethylamide].
A solution of 2.63 g. (16 mmole) octanoyl chloride in 25 ml. methylene chloride is slowly added dropwise at 0° C. to a mixture of 5.5 g. (16 mmole) 4-chlorobenzenesulphonic acid-4-(2-hydroxyethyl)-phenethylamide], 1.8 g. (18 mmole) triethylamine and 100 ml. methylene chloride. The reaction mixture is then maintained for 1 hour at 0° C. and for a further 2 hours at ambient temperature. It is subsequently shaken out with dilute hydrochloric acid and water, dried with anhydrous sodium sulphate and evaporated. After chromatography with silica gel/methylene chloride, there are obtained 3.8 g. (51% of theory) of the desired product: m.p. 55° C.

reactant | octanoyl chloride | 16 mmole | C(CCCCCCC)(=O)Cl | C8H15ClO
reactant | 4-chlorobenzenesulphonic acid-4-(2-hydroxyethyl)-phenethylamide | 16 mmole | OCCC1=CC=C(CCNS(=O)(=O)C2=CC=C(C=C2)Cl)C=C1 | C16H18ClNO3S
reactant | triethylamine | 18 mmole | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-Chlorobenzenesulphonic acid-4-(2-hydroxyethyl)-N-octanoylphenethylamide | OCCC1=CC=C(CCN(S(=O)(=O)C2=CC=C(C=C2)Cl)C(CCCCCCC)=O)C=C1 | C24H32ClNO4S
